US08487112B2
To a solution of 100 g of ethyl 4-chloroacetoacetate in 300 ml of toluene and 100 ml of ethanol are added 7 ml of acetic acid. At 10° C.-30° C., with cooling, 38.3 g of isopropylamine are added dropwise. Subsequently, the mixture is stirred at room temperature for 5 h and the solvent is removed under reduced pressure at temperatures of down to 35° C. 141.8 g of ethyl 4-chloro-3-(isopropylamino)but-2-enecarboxylate are obtained in a purity of 70% (this corresponds to 82% yield).

reactant | ethyl 4-chloroacetoacetate | 100 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
reactant | isopropylamine | 38.3 g | C(C)(C)N | C3H9N
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 4-chloro-3-(isopropylamino)but-2-enecarboxylate | 141.8 g, 82% yield | ClCC(=CCC(=O)OCC)NC(C)C | C10H18ClNO2
